US04217129
4-(1,2,4-Triazol-1-yl)-2,2,7,7-tetramethyl-octan-3-ol-6-one (Compound 1)
4-(1,2,4-triazol-1-yl)-2,2,7,7-tetramethyl-octan-3,6-dione (0.005 mol) was dissolved in methanol (50 ml). Sodium borohydride (0.005 mol) was added portionwise at room temperature for 2 hours, the solution was refluxed for 11/2 hours. Removal of the methanol gave a white solid which was dissolved in dilute hydrochloric acid (50 ml) and the solution extracted into chloroform (50 ml), washed with saturated sodium bicarbonate (50 ml) and with water (2×100 ml) and dried over anhydrous sodium sulphate. Removal of the chloroform gave a colourless oil which was crystallised from petroleum ether/chloroform to give the title compound as a white crystalline solid, m.p. 95°-96°.

reactant | 4-(1,2,4-triazol-1-yl)-2,2,7,7-tetramethyl-octan-3,6-dione | 0.005 mol | N1(N=CN=C1)C(C(C(C)(C)C)=O)CC(C(C)(C)C)=O | C14H23N3O2
reactant | Sodium borohydride | 0.005 mol | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 4-(1,2,4-Triazol-1-yl)-2,2,7,7-tetramethyl-octan-3-ol-6-one | N1(N=CN=C1)C(C(C(C)(C)C)O)CC(C(C)(C)C)=O | C14H25N3O2
